US06683200B2
1-(2-Cyclohexylethyl)-3-[2-(dimethylamino)ethyl]-1-(2-hydroxyethyl) Urea (Compound 1-1)
1,1′-Carbonyldiimidazole (0.43 g) was dissolved in a solution of 2-(dimethylamino) ethylamine (0.19 g) in anhydrous tetrahydrofuran (11 ml) in the nitrogen gas atmosphere and the resulting solution was stirred at room temperature for 20 minutes. To the reaction solution, there was added N-(2-hydroxyethyl)-2-cyclohexyl ethylamine hydrochloride (0.50 g) and the mixture was refluxed with heating for 3 hours. Chloroform was added to the reaction solution with ice cooling, followed by washing the mixture with saturated sodium hydrogen carbonate aqueous solution and then with saturated sodium chloride aqueous solution, drying over anhydrous magnesium sulfate and concentrating under reduced pressure. The resulting oily product was purified through the silica gel column chromatography to thus give the title compound (Compound 1-1, 0.68 g).

reactant | 1,1′-Carbonyldiimidazole | 0.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2-hydroxyethyl)-2-cyclohexyl ethylamine hydrochloride | 0.50 g | Cl.OCCNCCC1CCCCC1
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 2-(dimethylamino) ethylamine | 0.19 g | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | 1-(2-Cyclohexylethyl)-3-[2-(dimethylamino)ethyl]-1-(2-hydroxyethyl) Urea | 0.68 g | C1(CCCCC1)CCN(C(=O)NCCN(C)C)CCO | C15H31N3O2
